US06046213
A mixture of sodium borohydride (0.10 g, 2.64 mmol) and ethanol (5 mL) was stirred 10 min and then 1-(4-benzyloxy-3-methoxyphenyl)-2-(4-hydroxy-4-phenyl-piperidin-1-yl)-propan-1-one (1.13 g, 2.54 mmol in 25 mL of ethanol) was added. The reaction was stirred at ambient temperature overnight. The reaction was quenched with water and concentrated at reduced pressure and 40° C. The residue was partitioned between ethyl acetate and water. The phases were separated and the organic layer was washed with water and brine, dried over magnesium sulfate and concentrated to afford 1.16 g of crude product which was a 5:1 mixture of (1R*,2R*) and (1R*,2S*) isomers. The mixture was recrystallized from ethanol/ether/hexane and then recrystallized from ethanol/ether to give 0.47 g (41%) of (1R*,2R*)-1-(4-benzyloxy-3-methoxyphenyl)-2-(4-hydroxy-4-phenyl-piperidin-1-yl)-propan-1-ol which had: mp 131-132° C. Analysis calculated for C28H33NO4 : C, 75.14; H, 7.43; N, 3.13. Found: C, 75.50; H, 7.33; N, 3.25.

reactant | sodium borohydride | 2.64 mmol, 0.10 g | [BH4-].[Na+]
reactant | 1-(4-benzyloxy-3-methoxyphenyl)-2-(4-hydroxy-4-phenyl-piperidin-1-yl)-propan-1-one | 2.54 mmol, 25 mL, 1.13 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(C)N1CCC(CC1)(C1=CC=CC=C1)O)=O)OC | C28H31NO4
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (1R*,2R*)-1-(4-benzyloxy-3-methoxyphenyl)-2-(4-hydroxy-4-phenyl-piperidin-1-yl)-propan-1-ol | 0.47 g, 41% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H]([C@@H](C)N1CCC(CC1)(C1=CC=CC=C1)O)O)OC | C28H33NO4
